* NGSPICE file created from lzc2.ext - technology: sky130A

.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
X0 VGND A a_68_297# VNB sky130_fd_pr__nfet_01v8 ad=0.10025 pd=0.985 as=0.0567 ps=0.69 w=0.42 l=0.15
X1 a_68_297# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X2 X a_68_297# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.10025 ps=0.985 w=0.65 l=0.15
X3 VPWR A a_150_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14575 pd=1.335 as=0.0441 ps=0.63 w=0.42 l=0.15
X4 X a_68_297# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.34 pd=2.68 as=0.14575 ps=1.335 w=1 l=0.15
X5 a_150_297# B a_68_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_1 A VGND VNB VPB VPWR Y
X0 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt lzc2 GND VDD LO HI P V
Xx1 HI LO GND GND VDD VDD V sky130_fd_sc_hd__or2_1
Xx2 HI GND GND VDD VDD P sky130_fd_sc_hd__inv_1
.ends

